US07049438B2
Hydrogen peroxide (35% solution in water, 23 ml) was added dropwise to a stirred solution of 4,6-difluoro-2,3-dioxoindoline (14 g) in a concentrated aqueous sodium hydroxide solution (33%, 115 ml) that was heated to 70° C. The mixture was heated to 70° C. for 15 minutes. The resultant mixture was cooled to 0° C. and the the mixture was acidified to pH4 by the addition of concentrated aqueous hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulphate and evaporated to give 2-amino-4,6-difluorobenzoic acid (12 g); NMR Spectrum: (DMSOd6) 6.25 (m, 1H), 6.38 (m, 1H).

reactant | Hydrogen peroxide | 23 ml | OO | H2O2
reactant | 4,6-difluoro-2,3-dioxoindoline | 14 g | FC1=C2C(C(NC2=CC(=C1)F)=O)=O | C8H3F2NO2
reactant | sodium hydroxide | 115 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-4,6-difluorobenzoic acid | 12 g | NC1=C(C(=O)O)C(=CC(=C1)F)F | C7H5F2NO2
